US06322908B1
A chlorine gas was introduced into a solution of 3,4-dimethyl-2-pyrazolin-5-one in 1,2-dichloroethane, followed by gradual refluxing. After the reaction, the reaction mixture was cooled and filtered. The solvent was then distilled off. The residue in the form of an oil was recrystallized from a 1:1 mixture of benzene and petroleum ether, whereby 3,4-dimethyl-4-chloro-2-pyrazolin-5-one was obtained.

reactant | chlorine | ClCl | Cl2
reactant | 3,4-dimethyl-2-pyrazolin-5-one | CC1=NNC(C1C)=O | C5H8N2O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 3,4-dimethyl-4-chloro-2-pyrazolin-5-one | CC1=NNC(C1(Cl)C)=O | C5H7ClN2O
